US08242174B2
(R)-3-((R)-6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoyl)-4-benzyloxazolidin-2-one (C6)
To a cooled (−78° C.) solution of KHMDS (3.49 mL, 1.745 mol, 0.5 M in toluene) in 5 mL of THF was added a cooled (−78° C.) solution of (R)-3-(6-(4-fluoro-3-methylbenzyloxy)hexanoyl)-4-benzyloxazolidin-2-one (0.481 g, 1.163 mmol) in 4 mL of THF. The reaction was stirred at −78° C. under N2 for 1 h. Then a cooled (−78° C.) solution of trisyl azide (0.448 g, 1.454 mmol) in 4 mL of THF was added. After 1-2 min, a solution of HOAc (0.321 g, 5.350 mmol) in 4 mL of THF was added. After warmed slowly to room temperature and stirred for overnight, the reaction mixture was diluted with brine (50 mL) and extracted with dichloromethane (40 mL×3). The combined organic extracts dried (Na2SO4), filtered, and concentrated under reduced pressure. The product was isolated by Flash column chromatography (silica gel column) eluting with 0-100% dichloromethane/hexanes to give the title compound as colorless oil (0.252 g, 48% yield). FT-IR (neat): 2104, 1778, 1704 cm−1.

reactant | KHMDS | 1.745 mol, 0.5 M, 3.49 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (R)-3-(6-(4-fluoro-3-methylbenzyloxy)hexanoyl)-4-benzyloxazolidin-2-one | 1.163 mmol, 0.481 g | FC1=C(C=C(COCCCCCC(=O)N2C(OC[C@H]2CC2=CC=CC=C2)=O)C=C1)C | C24H28FNO4
reactant | trisyl azide | 1.454 mmol, 0.448 g | CC(C)C1=CC(=C(C(=C1)C(C)C)S(=O)(=O)N=[N+]=[N-])C(C)C | C15H23N3O2S
reactant | HOAc | 5.350 mmol, 0.321 g | CC(=O)O | C2H4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | brine | 50 mL | [Cl-].[Na+].O
product | (R)-3-((R)-6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoyl)-4-benzyloxazolidin-2-one | 0.252 g, 48% yield | FC1=C(C=C(COCCCC[C@H](C(=O)N2C(OC[C@H]2CC2=CC=CC=C2)=O)N=[N+]=[N-])C=C1)C | C24H27FN4O4
